US08497265B2
Step 1. 1-(1-(3-((1-(Quinolin-2-yl)Azetidin-3-yl)Oxy)Pyrazin-2-yl)Piperidin-4-yl)Ethanone
To a mixture of 2-(3-((3-chloropyrazin-2-yl)oxy)azetidin-1-yl)quinoline (see PREPARATION P2.6; 312 mg, 1.0 mmol) and 1-(piperidin-4-yl)ethanone (127 mg, 1.0 mmol) and K2CO3 (276 mg, 2.0 mmol) was added i-PrOH (3 mL) and water (1.0 ml). The solution was heated to 160° C. under microwave for 5 hours. Then the mixture was concentrated and extracted with EtOAc (2×30 mL). The combined organic extracts were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (20% to 60% EtOAc in petroleum ether) to give the title product (72 mg, 0.18 mmol, 18% yield) as white solid. ESI-MS (M+1): 404 calc. for C23H25N5O2 403.

reactant | 2-(3-((3-chloropyrazin-2-yl)oxy)azetidin-1-yl)quinoline | 1.0 mmol, 312 mg | ClC=1C(=NC=CN1)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C16H13ClN4O
reactant | 1-(piperidin-4-yl)ethanone | 1.0 mmol, 127 mg | N1CCC(CC1)C(C)=O | C7H13NO
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | i-PrOH | 3 mL | CC(C)O | C3H8O
solvent | water | 1.0 ml | O | H2O
product | 1-(1-(3-((1-(Quinolin-2-yl)Azetidin-3-yl)Oxy)Pyrazin-2-yl)Piperidin-4-yl)Ethanone | 0.18 mmol, 72 mg, 18% yield | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)N1CCC(CC1)C(C)=O | C23H25N5O2
